US09301951B2
Intermediate 1.1j: 2-(2-(3-((3-tert-butoxy-3-oxopropylthio)methyl)benzamido)-5-(piperidin-1-yl)phenyl)isonicotinic acid
Into a 50-mL round bottom flask, was placed a solution of methyl 2-(2-(3-((3-tert-butoxy-3-oxopropylthio)methyl)benzamido)-5-(piperidin-1-yl)phenyl)isonicotinate (160 mg, 0.27 mmol, 1.00 equiv) in tetrahydrofuran (5 mL), and a solution of lithium hydroxide hydrate (160 mg, 3.81 mmol, 14.02 equiv) in water (5 mL). The resulting solution was stirred overnight at room temperature. The resulting mixture was concentrated under vacuum. The solution was adjusted to pH 3 with hydrochloric acid (2 mol/L). The resulting solution was extracted with 3×10 mL of ethyl acetate and the organic layers combined. The resulting mixture was washed with 3×10 mL of brine. The mixture was dried over anhydrous sodium sulfate and concentrated under vacuum. This resulted in 140 mg (90%) of 2-(2-(3-((3-tert-butoxy-3-oxopropylthio)methyl)benzamido)-5-(piperidin-1-yl)phenyl)isonicotinic acid as a yellow semi-solid.

reactant | methyl 2-(2-(3-((3-tert-butoxy-3-oxopropylthio)methyl)benzamido)-5-(piperidin-1-yl)phenyl)isonicotinate | 0.27 mmol, 160 mg, 1.00 equiv | C(C)(C)(C)OC(CCSCC=1C=C(C(=O)NC2=C(C=C(C=C2)N2CCCCC2)C=2C=C(C(=O)OC)C=CN2)C=CC1)=O | C33H39N3O5S
reactant | lithium hydroxide hydrate | 3.81 mmol, 160 mg, 14.02 equiv | O.[OH-].[Li+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | water | 5 mL | O | H2O
product | 2-(2-(3-((3-tert-butoxy-3-oxopropylthio)methyl)benzamido)-5-(piperidin-1-yl)phenyl)isonicotinic acid | C(C)(C)(C)OC(CCSCC=1C=C(C(=O)NC2=C(C=C(C=C2)N2CCCCC2)C=2C=C(C(=O)O)C=CN2)C=CC1)=O | C32H37N3O5S
